US05219847
II-5-4: Synthesis of 2-cyano-4-n-undecylpyridine
To a solution of 5.00 g (20 mmol) of 4-n-undecylpyridine N-oxide and 4.04 g (40 mmol) of triethylamine dissolved in 20 ml of acetonitrile was dropwise added 7.92 g of trimethylsilylanilide while stirring at room temperature. After the dropwise addition, the mixture was refluxed for 22 hours, concentrated under a reduced pressure, then dissolved in diethyl ether and washed with saturated sodium hydrogen carbonate solution. The product was dried over anhydrous aqueous sodium sulfate and concentrated under a reduced pressure, followed by separation by silica gel column chromatography (ethyl acetate:hexane=1:9) to give the desired product of 3.95 g (solidified) (yield 76.2%).

reactant | 4-n-undecylpyridine N-oxide | 20 mmol, 5.00 g | C(CCCCCCCCCC)C1=CC=[N+](C=C1)[O-] | C16H27NO
reactant | triethylamine | 40 mmol, 4.04 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-cyano-4-n-undecylpyridine | yield 76.2% | C(#N)C1=NC=CC(=C1)CCCCCCCCCCC | C17H26N2
